US06747023B1
4-[(5-Chloroindol-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)-1-[[4-(pyridin-4-yl)-3-cyclohexen-1-yl]carbonyl]piperazine
In a mixture of methylene chloride (30 mL) and N,N-dimethylformamide (30 mL) was dissolved 4-(pyridin-4-yl)-3-hexenic acid hydrochloride (480 mg). Under ice cooling, 1-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)piperazine (1.024 g), 1-hydroxybenzotriazole (405 mg), N-methylmorpholine (607 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (575 mg) were added to the resulting solution. After 10 minutes, the mixture was allowed to rise back to room temperature, followed by stirring. After 48 hours, the reaction was terminated and the solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue. The resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate and saturated saline, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (methylene chloride:methanol=20:1), whereby the title compound (680 mg, colorless oil) was obtained.

reactant | 4-(pyridin-4-yl)-3-hexenic acid hydrochloride | 480 mg | Cl.N1=CC=C(C=C1)C(=CCC(=O)O)CC
reactant | 1-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)piperazine | 1.024 g | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)N1C(CNCC1)CC(=O)OC | C21H22ClN3O6S2
reactant | 1-hydroxybenzotriazole | 405 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 607 mg | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 575 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-[(5-Chloroindol-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)-1-[[4-(pyridin-4-yl)-3-cyclohexen-1-yl]carbonyl]piperazine | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1CC=C(CC1)C1=CC=NC=C1)CC(=O)OC | C27H29ClN4O5S
